US06891066B2
Step B: Preparation of 3,4-difluoro-2-[[2-fluoro-4-(methylsulfonyl)phenyl]-amino]-N-(2-hydroxyethoxy)benzamide
The title compound was prepared from reaction of the product of Example 28, Step A, 3,4-difluoro-2-[[2-fluoro-4-(methylsulfonyl)phenyl]amino]benzoic acid, with CDI and 2-(aminooxy)ethanol by the general procedure of Example 1, Step E. Then, after workup, the crude solid purified by dry flash column chromatography on silica (5% isopropanol/hexanes as eluant) to afford 3,4-difluoro-2-[[2-fluoro-4-(methylsulfonyl)phenyl]amino]-N-(2-hydroxyethoxy)benzamide as a white solid (52%); m.p. (Et2O) 85-88° C. 1H NMR [400 MHz, (CD3)2SO] δ 11.78 (br s, 1 H), 8.88 (br s, 1 H), 7.72 (dd, J=11.1, 2.1 Hz, 1 H), 7.55 (ddd, J=8.8, 2.1, 0.6 Hz, 1 H), 7.48-7.35 (m, 2 H), 6.87 (td, J=8.8, 4.0 Hz, 1 H), 4.68 (br s, 1 H), 3.81 (t, J=4.6 Hz, 2 H), 3.54 (td, J=4.9, 4.2 Hz, 2 H), 3.18 (s, 3 H). Anal. Calcd for C16H15F3N2O5S: C, 47.5; H, 3.6; N, 6.9. Found: C, 47.3; H, 3.8; N, 6.6.

reactant | 3,4-difluoro-2-[[2-fluoro-4-(methylsulfonyl)phenyl]amino]benzoic acid | FC=1C(=C(C(=O)O)C=CC1F)NC1=C(C=C(C=C1)S(=O)(=O)C)F | C14H10F3NO4S
reactant | CDI | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 2-(aminooxy)ethanol | NOCCO | C2H7NO2
product | 3,4-difluoro-2-[[2-fluoro-4-(methylsulfonyl)phenyl]amino]-N-(2-hydroxyethoxy)benzamide | 52% | FC=1C(=C(C(=O)NOCCO)C=CC1F)NC1=C(C=C(C=C1)S(=O)(=O)C)F | C16H15F3N2O5S
